US05824691
10% Palladium on carbon (0.25 g) was added to the solution of methyl 3-[2-((E)-2-benzyloxycarbonylethenyl)pyrrol-1-yl]benzoate (2.5 g) in methanol (50 ml) and the mixture was subjected to catalytic reduction at the ambient temperature under atmospheric pressure. The catalyst was removed by filtration and the filtrate was evaporated in vacuo. The residue was triturated with diisopropyl ether to give methyl 3-[2-(2-carboxyethyl)pyrrol-1-yl]benzoate (1.02 g).

reactant | methyl 3-[2-((E)-2-benzyloxycarbonylethenyl)pyrrol-1-yl]benzoate | 2.5 g | C(C1=CC=CC=C1)OC(=O)/C=C/C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C22H19NO4
catalyst | Palladium on carbon | 0.25 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | methyl 3-[2-(2-carboxyethyl)pyrrol-1-yl]benzoate | 1.02 g | C(=O)(O)CCC=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C15H15NO4
